US04420478
A mixture of 739 mg of 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid, 76 mg of potassium carbonate and 3 ml of dimethylformamide was stirred at 20° C. for 10 minutes and after cooling the mixture to 0° to 50° C., 0.6 g of 1-bromoethyl acetate was slowly added thereto. The mixture was stirred for 20 minutes at 0° to 5° C. and for one hour at 20° C. and then a mixture of 40 ml of iced water and 1.5 ml of N hydrochloric acid were added thereto. The mixture was vacuum filtered and the product was rinsed with water and dried to obtain 761 mg of the syn isomer of 1-acetoxyethyl 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate.

reactant | 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid | 739 mg | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC(C)(OC)C)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C36H34N8O6S2
reactant | potassium carbonate | 76 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromoethyl acetate | 0.6 g | C(C)(=O)OC(C)Br | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-acetoxyethyl 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)OC(C)OC(C)=O)C(C2NC(C(=NOC(C)(OC)C)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C40H40N8O8S2
